US04985419
1,2-Diaminocyclohexane (9.3 g) is added to an ethanolic solution (35 cc) of 10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarbothioamide (2.8 g). The mixture is heated in an autoclave to 160° C. for 4.5 hours. The reaction mixture is diluted with ethyl acetate (100 cc) and washed with distilled water (3×100 cc). The organic phase is separated after settling has taken place, dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is purified by chromatography on a column (height: 22 cm; diameter: 4 cm) of silica gel (0.04-0.06 mm) with a slight excess pressure of nitrogen (40 kPa), eluting with 1,2-dichloroethane (1 liter) and mixtures of 1,2-dichloroethane and methanol in proportions (by volume) of 90:10 (3 liters), 80:20 (2 liters), 70:30 (2 liters) and 50:50 (1 liter) and with pure methanol (1 liter) and collecting 125-cc fractions. Fractions 63 to 80 containing the pure product are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give 10-[(2RS)-1-dimethylamino-2-propyl]-2-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)phenothiazine (1.2 g) in the form of a yellow product of meringue-like consistency.

reactant | 1,2-Diaminocyclohexane | 9.3 g | NC1C(CCCC1)N | C6H14N2
reactant | 10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarbothioamide | 35 cc, 2.8 g | CN(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S)C | C18H21N3S2
solvent | ethyl acetate | 100 cc | C(C)(=O)OCC | C4H8O2
product | 10-[(2RS)-1-dimethylamino-2-propyl]-2-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)phenothiazine | 1.2 g | CN(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C1=NC2C(N1)CCCC2)C | C24H30N4S
